US09334286B2
N-(4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidin-2-amine
A suspension of 2-chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidine (Preparation 55, 7.5 mg, 0.03 mmol), 4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyaniline (Preparation 74, 10 mg, 0.05 mmol), R-(+)BINAP (2 mg, 3 umol), Pd(OAc)2 (0.69 mg, 3 umol), K2CO3 (42 mg, 0.31 mmol) in DMF (3 mL) was stirred at 160° C. under microwave irradiation for 2 hours. The reaction mixture was filtered, diluted with NaCl solution and extracted with EtOAc. The organic layer was purified by SCX-2 column eluting with 2M NH3 in MeOH and concentrated in vacuo. The residue was purified by Biotage silica gel column chromatography eluting with 0-10% MeOH in EtOAc followed by preparative HPLC to afford the title compound (4 mg, 31%).

reactant | 2-chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidine | 0.03 mmol, 7.5 mg | ClC=1N=CC2=C(N1)N=C(C=C2)C=2C=NN(C2)C | C11H8ClN5
reactant | 4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyaniline | 0.05 mmol, 10 mg | CN1C(=NC=C1C1=CC(=C(N)C=C1)OC)C | C12H15N3O
reactant | K2CO3 | 0.31 mmol, 42 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 3 umol, 0.69 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(4-(1,2-dimethyl-1H-imidazol-5-yl)-2-methoxyphenyl)-7-(1-methyl-1H-pyrazol-4-yl)pyrido[2,3-d]pyrimidin-2-amine | 4 mg, 31% | CN1C(=NC=C1C1=CC(=C(C=C1)NC=1N=CC2=C(N1)N=C(C=C2)C=2C=NN(C2)C)OC)C | C23H22N8O
